US03962437
A mixture of 12 g. of thiazolidine-2-thione, and 16 g. of 1-bromo-3-chloro propane in 100 ml. of acetonitrile is refluxed for 12 hours, cooled and the product removed by filtration. Recrystallization from ethanol gives 2,3,5,6-tetrahydrothiazolo[2,3-b]-(1,3)-thiazinium bromide.

reactant | thiazolidine-2-thione | S1C(NCC1)=S | C3H5NS2
reactant | 1-bromo-3-chloro propane | BrCCCCl | C3H6BrCl
solvent | acetonitrile | C(C)#N | C2H3N
product | 2,3,5,6-tetrahydrothiazolo[2,3-b]-(1,3)-thiazinium bromide | [Br-].S1CC[N+]2=C1SCCC2 | InChI=1S/C6H10NS2.BrH/c1-2-7-3-5-9-6(7)8-4-1;/h1-5H2;1H/q+1;/p-1
